US05110904
4-Dimethylaminopyridine (3.66 g) was added to a solution of sarcosine (26.7 g) and triethylamine (50 ml) in (1:1) dioxane water (150 ml) cooled at 0° C. A solution of acetyl chloride (22.37 ml) in dioxane (20 ml) was added dropwise over a period of 30 min. The reaction solution was then stirred at room temperature for 1 hour and subsequently was acidified to pH 3 with cold 50% aqueous HCl. The mixture was extracted three times with ethyl acetate. The extracts were washed with a saturated NaCl solution, dried over Na2SO4 and concentrated. The residue was crystallized from ethyl acetate to give N-acetyl-sarcosine, m.p. 135°-137° C. Fab Mass spec. m/e 132 (M+H); Anal. for C5H9NO3, Calcd: C, 45.79; H, 6.91; N, 10.68; Found: C, 45.78; H, 7.03; N, 10.64.

reactant | sarcosine | 26.7 g | N(C)CC(=O)O | C3H7NO2
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 22.37 ml | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
catalyst | 4-Dimethylaminopyridine | 3.66 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane water | 150 ml | O.O1CCOCC1
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-acetyl-sarcosine | C(C)(=O)N(C)CC(=O)O | C5H9NO3
